US08895580B2
Step 3: Preparation of (2-oxo-1-phenylpiperidin-4-yl)methyl methanesulfonate
4-(Hydroxymethyl)-1-phenylpiperidin-2-one (0.27 g, 1.3 mmol) was dissolved in dichloromethane (15 mL), cooled to 0° C. and treated with triethylamine (1.0 mL, 7.2 mmol, 5.5 equiv). To the mixture was added methanesulfonyl chloride (0.10 mL, 1.3 mmol, 1 equiv), the mixture was warmed to ambient temperature and stirred for an additional 15 hours. The mixture was poured into water (25 mL) and extracted with dichloromethane (2×20 mL). The combined organic extracts were dried with sodium sulfate, filtered and concentrated in vacuo, providing the titled compound.

reactant | 4-(Hydroxymethyl)-1-phenylpiperidin-2-one | 1.3 mmol, 0.27 g | OCC1CC(N(CC1)C1=CC=CC=C1)=O | C12H15NO2
reactant | triethylamine | 7.2 mmol, 1.0 mL, 5.5 equiv | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 1.3 mmol, 0.10 mL, 1 equiv | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | 25 mL | O | H2O
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | (2-oxo-1-phenylpiperidin-4-yl)methyl methanesulfonate | CS(=O)(=O)OCC1CC(N(CC1)C1=CC=CC=C1)=O | C13H17NO4S
